US07423030B2
44.3. 1,7-Dichloro-4-(4-methoxyphenyl)phthalazine
This compound is obtained according to the procedure described in 1.3. by reacting 7-chloro-4-(4-methoxyphenyl)-2H-phthalazin-1-one with phosphoryl chloride.

reactant | 7-chloro-4-(4-methoxyphenyl)-2H-phthalazin-1-one | ClC1=CC=C2C(=NNC(C2=C1)=O)C1=CC=C(C=C1)OC | C15H11ClN2O2
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1,7-Dichloro-4-(4-methoxyphenyl)phthalazine | ClC1=NN=C(C2=CC=C(C=C12)Cl)C1=CC=C(C=C1)OC | C15H10Cl2N2O
